US06987114B1
1-(Cyclohexyl)methyl-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and (cyclohexyl)methyl para-toluenesulfonate were reacted by the same way with the example 1 to obtain the titled compound (195 mg, yield: 52.3%).

reactant | 5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O2S
reactant | (cyclohexyl)methyl para-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCCCC1)C | C14H20O3S
product | 1-(Cyclohexyl)methyl-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 195 mg, yield: 52.3% | C1(CCCCC1)CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C21H28N2O2S
